Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac Catheterisation ___ with DES to mid-LAD 

 
History of Present Illness:
___ with HLD, HTN, CAD, NSTEMI (___) with multiple 
previous PCIs latest instent restenosis with DES to LCx 
___, 3VD, moderate MR, CHF EF 45%, ESRF on HD, ischemic 
colitis s/p thrombectomy and ileostomy, PVD s/p aorto-bifem 
(___), dementia, paroxysmal AF, previous perioperative stroke 
(without deficit)presents with unstable angina and ___ 
transferred from ___ for cath in am.
Recent admission with clotted L dialysis graft and discharged on 
___. Patient was treated with HD via a temporary right 
femoral HD line and had ___ LUE AVF thrombectomy c/b Radial art 
occlusion s/p extraction of thrombus ___. He remained on a 
heparin drip until ___ and was initially started on warfarin 
but this was stopped given h/o of GI bleed 6 months prior. He 
was continued on aspirin and clopidogrel given h/o cardiac 
stents. He was hypertensive on d/c and amlodipine was added.
Per patient, normally had angina which is a sharp central chest 
pain every 2 weeks always resolving with nitro. Can occur at any 
time and also at rest with no change with exertion. Past 2 weeks 
more frequent one time ___ days ago lasting ___ mins and 
resolving with nitro and latterly ___ days ago again resolving 
with nitro. On ___ of ___t rest every ___ hours waking 
him from sleep for a total of ___ episodes all lasting ___ 
minutes and resolving with nitro and latterly ___ resolving 
with nitro. Chest pain is like ___ angina with ___ without 
radiation and without N/V/sweating/light-headedness or 
palpitations. After his longer episode this am called EMS and 
went to ___ ___.
.
In ___, BP 197/70 and HR 100 and was given nitro for 
further pain requiring frequent nitros ove the first 2 hours and 
was then placed on nitro and heparin drips and transferred to 
the ICU for evaluation and therapy. No ECG changes and TnT was 
0.37 and
.
Currently CP free and without other symptoms.
.
.
Cardiac review of systems is notable for absence of current 
chest pain, dyspnea on exertion, paroxysmal nocturnal dyspnea, 
orthopnea, ankle edema, palpitations, syncope or presyncope.
.
Other ROS:
RS - No pleuritic CP, cough, no sputum, hemoptysis or wheeze.
GIS - No recent weight loss, no N, V, BRBPR, melena, heartburn.
CNS - No vertigo, weakness. Tingling/numbnes in fingertips.
US - No dysuria, frquency, hematuria. Feels decreased urien 
frequency.
ES - No fevers, sweats, chills, tremors
HS - No bleeding. Bruising ++.
DS - No rashes, pruritis
 
Past Medical History:
1. CARDIAC RISK FACTORS: Dyslipidemia, Hypertension
.
2. CARDIAC HISTORY:
-PERCUTANEOUS CORONARY INTERVENTIONS
(1) CAD s/p NSTEMI and stenting of the distal RCA, OM2 in ___
complicated by GIB and paroxysmal atrial fibrillation
(2) s/p NSTEMI and unstable angina in ___, cath showed
compelte occlusion of all three stents placed in ___, ___
placed in LCx
(3) s/p unstable angina, DES to LCx since LCx placed in ___
had instent stenosis
(4) s/p unstable angina at cath found stents to distal RCA and 
OM both re-stenosed, ___ to LCx instent stenosis, s/p DES to 
LCx ___
.
3. OTHER PAST MEDICAL HISTORY:
-Three vessel CAD: see above for details
-Perioperative (bowel resection) vasospasm requiring cardiac
cath with NTG
-Mild-moderate MR
-___ EF: 45% with focal inferior-posterior wall motion
abnormalities
-ESRD on HD
-Ischemic Colitis: s/p SMA thrombectomy, with ___ pouch
and end ileostomy. Also complicated by recent diversion colitis
in ___.
-Peripheral vascular disease s/p aortobifemoral bypass ___
-Raynauds
-Dementia
-Atrial fibrillation not on warfarin due to GIB
-H/o perioperative CVA: no deficits
-Hyperlipidemia
-HTN
-H/o Achalasia s/p esophageal dilation
-H/o VRE infection
-Anemia
-___ ___ LUE AVF thrombectomy c/b Radial
art occlusion with thrombus extraction
 
Social History:
___
Family History:
Mother - MI died ___
Father- MI died ___?
___ - multiple medical problems with IHD and ? CVA
Comes from a family of ___ children. Only 2 are still alive. 
Sister ___ is apparently well.
Significant history of cardiac disease in the family.
 
Physical Exam:
VS: T=96.4 BP= 130/49 HR=54 RR=18 O2 sat=95% RA
GENERAL: In NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL 2.5+/2.5+, EOMI. 
Conjunctiva were pink, no pallor or cyanosis of the oral mucosa. 
No xanthalesma.
NECK: Supple with JVP not elevated.
CARDIAC: HS 1+2+ ESM and PSM radiating to carotids.
LUNGS: Few crackles left base.
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.
EXTREMITIES: No c/c. Mild edema to mid shins. Bilateral femoral 
bruits. Thrill over left dialysis graft. Stitch present.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. Bruises 
++.
PULSES:
Absent L radial at prev attempted fistula site.
Right: Carotid 2+ Femoral ___ DP 2+ ___ -
Left: Carotid 2+ Femoral 2+ DP - ___ -
Good cap refill bilat
CNS: GCS ___. UL and LL exam normal. Plantars flexor 
bilaterally. CN ___ normal no fields or fundoscopy done.
 
Pertinent Results:
Laboratory investigations:
Admission labs:
___ 06:00AM BLOOD WBC-7.5 RBC-3.02* Hgb-9.6* Hct-28.4* 
MCV-94 MCH-31.7 MCHC-33.7 RDW-17.8* Plt ___
___ 06:00AM BLOOD ___ PTT-64.8* ___
___ 06:00AM BLOOD Glucose-93 UreaN-49* Creat-7.8*# Na-138 
K-4.8 Cl-97 HCO3-32 AnGap-14
___ 06:00AM BLOOD Calcium-9.0 Phos-5.1* Mg-2.4
.
Cardiacs:

___ 12:14AM BLOOD CK(CPK)-36*
___ 06:00AM BLOOD CK(CPK)-35*
___ 11:16AM BLOOD CK(CPK)-33*
___ 03:50PM BLOOD CK(CPK)-75
___ 04:34PM BLOOD CK(CPK)-34*
___ 11:28PM BLOOD CK(CPK)-39*
___ 10:00AM BLOOD CK(CPK)-46*
___ 12:11AM BLOOD CK(CPK)-53
___ 07:20AM BLOOD CK(CPK)-55
___ 12:14AM BLOOD CK-MB-3 cTropnT-0.35*
___ 06:00AM BLOOD CK-MB-3 cTropnT-0.38*
___ 11:16AM BLOOD CK-MB-3 cTropnT-0.36*
___ 03:50PM BLOOD CK-MB-3
___ 04:34PM BLOOD CK-MB-3 cTropnT-0.35*
___ 11:28PM BLOOD CK-MB-3 cTropnT-0.39*
___ 10:00AM BLOOD CK-MB-3 cTropnT-0.39*
___ 12:11AM BLOOD CK-MB-3 cTropnT-0.45*
___ 07:20AM BLOOD CK-MB-3 cTropnT-0.44*
.
Other pertinent labs:
___ 06:00AM BLOOD TSH-1.8
.
Discharge labs:
___ 07:20AM BLOOD WBC-7.8 RBC-3.21* Hgb-10.1* Hct-30.2* 
MCV-94 MCH-31.6 MCHC-33.5 RDW-17.7* Plt ___
___ 07:20AM BLOOD Glucose-90 UreaN-33* Creat-6.1*# Na-134 
K-4.5 Cl-91* HCO3-28 AnGap-20
___ 07:20AM BLOOD Calcium-9.7 Phos-4.7* Mg-2.2
.
.
Cardiology:
ECGStudy Date of ___  7:17:12 ___
 
Sinus bradycardia with first degree atrio-ventricular conduction 
delay.
Borderline left atrial abnormality. Cannot exclude prior septal 
myocardial
infarction. Diffuse non-diagnostic repolarization abnormalities. 
Compared to
the previous tracing of ___ cardiac rhythm is now sinus 
mechanism.
Otherwise, there is no diagnostic change.
 
Read ___
 IntervalsAxes
___
___
.
Cardiac CathStudy Date of ___
___ COMMENTS:     Initial angiography revealed a new mid LAD 
70%
stenosis involving take-off of the large DIAG2. We planned to 
treat this
stenosis with PTCA/stenting and bivalirudin was started 
prophylactically
after a ___ femoral graft sheath was advanced into position. An 
XB 3.5
guiding catheter provided good support for the procedure and a 
Choice
floppy wire was advanced into the distal LAD with minimal 
difficulty. We
then predilated the mid LAD lesion with an NC Quantum Apex MR 
3.0x15 mm
balloon followed by stenting with a Promus Rx 3.0x18 mm 
drug-eluting
___ (DES). At this time we angiographically noted an ostial 
pinching
of the DIAG2. We then advanced another Choice Floppy wire into 
the DIAG2
with minimal difficulty and proceeded with PTCA only of the 
ostia with
an Apex Rx 2.25x8 mm balloon inflated at ___ atms. We then 
___
the mid LAD ___ with an NC Quantum Apex MR 3.25x12 mm balloon 
inflated
at 12 atms followed by repeat PTCA only of the ostial DIAG2 with 
the
2.25 mm balloon. Final angiography revealed normal TIMI 3 in the
LAD/DIAG vessels, no angiographically apparent dissection and 
<20%
residual stenosis in the DIAG2 vessel. The R ___ femoral graft 
sheath
was sutured into position after limited groin angiography with 
plan for
removal post procedure.

COMMENTS:     
1. Limited coronary angiography revealed the following findings. 
The
LMCA revealed insignificant plaquing. The LAD revealed a new 70% 
mid
stenosis involving the take-off of the large DIAG2. The LCx was 
widely
patent in the mid ___ with diffuse OM disease. The RCA was 
known to be
totally occluded with L to R collaterals.
2. Limited resting hemodynamics revealed a SBP of 145 mmHg and a 
DBP of
54 mmHg.
3. Successful PTCA/stenting of the mid LAD with a Promus Rx 
3.0x18 mm
___ with an NC 3.25 mm balloon. (see ___ comments)
4. Successful PTCA only of the ostial DIAG2 with a 2.25 mm 
balloon. (see
PTCA comments)
5. R ___ femoral graft sheath sutured into position for removal 
post
procedure
 
FINAL DIAGNOSIS:    
1. Successful PTCA/stenting of the mid LAD with a Promus Rx 
3.0x18 mm
___ with an NC 3.25 mm balloon. Succesful PTCA only 
of the
ostial DIAG2 with a 2.25 mm balloon. (see PTCA comments)
2. ASA indefinitely
3. Plavix (clopidogrel) 75 mg daily indefinitely
4. R ___ femoral graft sheath to be removed post procedure
.
ECGStudy Date of ___  5:00:52 ___
 
Sinus bradycardia. Since the previous tracing the rate is 
somewhat slower.
Otherwise, unchanged.
TRACING #4
 
Read ___.
 IntervalsAxes
___
___
.
ECGStudy Date of ___  1:50:42 ___
 
Sinus rhythm. Since the previous tracing the rate is faster. 
Otherwise,
probably unchanged.
TRACING #3
 
Read ___.
 IntervalsAxes
___
___
.
ECGStudy Date of ___  10:56:44 AM
 
Sinus bradycardia. P-R interval prolongation. ST-T wave 
abnormalities.
Since the previous tracing probably no significant change.
TRACING #2
 
Read ___.
 IntervalsAxes
___
___
.
ECGStudy Date of ___  9:41:46 AM
 
Sinus bradycardia. Mild P-R interval prolongation. Q-T interval 
prolongation.
ST-T wave abnormalities. Since the previous tracing of ___ 
the
Q-T interval is longer. Otherwise, unchanged.
TRACING #1
 
Read ___.
 IntervalsAxes
___
___
.
ECGStudy Date of ___  9:21:18 AM
 
Sinus rhythm. Since the previous tracing the P-R interval is 
somewhat shorter.
The QTc interval has shortened. Otherwise, probably unchanged. 
Clinical
correlation is suggested.
TRACING #5
 
Read ___.
 IntervalsAxes
___
___
.
TTE (Complete) Done ___ at 10:10:12 AM
Findings
This study was compared to the report of the prior study (images 
not available) of ___.
LEFT ATRIUM: Normal LA size. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. 

LEFT VENTRICLE: Mild symmetric LVH. Normal LV cavity size. Mild 
regional LV systolic dysfunction. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal aortic diameter at the sinus level. Normal 
ascending aorta diameter. 

AORTIC VALVE: Moderately thickened aortic valve leaflets. 
Minimal AS. Trace AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild 
thickening of mitral valve chordae. Moderate (2+) MR. 

___ VALVE: Mildly thickened tricuspid valve leaflets. Mild 
[1+] TR. Moderate PA systolic hypertension. 

PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. 

PERICARDIUM: No pericardial effusion.

Conclusions
The left atrium is normal in size. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. There is mild regional left ventricular systolic 
dysfunction with basal inferior hypokinesis and mid to distal 
inferolateral hypokinesis. Right ventricular chamber size and 
free wall motion are normal. The aortic valve leaflets are 
moderately thickened. There is a minimally increased gradient 
consistent with minimal aortic valve stenosis. Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Moderate (2+) mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. There is moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion.

Compared with the prior report (images unavailable) of ___, 
mitral regurgitation is now more prominent and estimated 
pulmonary artery systolic pressure is now higher. 
 
Brief Hospital Course:
___ with HLD, HTN, CAD, NSTEMI (___) with multiple 
previous PCIs latest instent restenosis with DES to LCx 
___, 3VD, moderate MR, CHF EF 45%, ESRF on HD, ischemic 
colitis s/p thrombectomy and ileostomy, PVD s/p aorto-bifem 
(___), dementia, paroxysmal AF not on warfarin, previous 
perioperative stroke presented with unstable angina and NSTEMI. 
No ECG changes and TnT peaked at 0.5 at OSH. Patient was 
transferred from ___ for cath on IV nitro and heparin drips. 
At cath had DES placed to mid LAD and jailed the ostial diagonal 
which then had successful PTCA. Patient had chest pain post-cath 
with no ECG changes and nitro drip was continued. Cardiology 
felt no need to return to cath given no ECG changes and 
recommended starting isosorbide dinitrate and uptitrating this 
and patient was weaned off nitro drip. CEs were stable and MB 
was flat indicating that patient did not have a ___ 
MI. Given his chest pain renal deferred dialysis until ___ and 
treated hyperkalemia 5.7 with kayexalate. Had CP and hypotension 
following dialysis and none after this. Patient had further 
dialysis on regularly scheduled day and patent was discharged 
after dialysis on ___. Patient has PCP and cardiology 
___.
.
.
# CORONARIES: Patient had a recent cardiac catheterization which 
showed ___ stenosis of LCx ___ placed in ___ and s/p 
___ which was placed ___. Patient was admitted with 
unstable angina. At OSH, cardiac enzymes were positive for TnT 
0.37->0.5 (previously 0.05 n ___. ECG showed no changes. 
He was started on IV heparin and nitro drip at the OSH and 
transferred to the ___. Cath at ___ showed a new 70% mid LAD 
stenosis involving the take-off of the large DIAG2. The LCx was 
widely patent in the mid ___ with diffuse OM disease and the 
RCA was occluded as previously. They did PTCA/stenting of the 
mid LAD with DES and following jailed DIAG had successful PTCA 
of the ostial DIAG2. Patient had chest pain post-cath with no 
ECG changes and nitro drip was continued. Cardiology felt no 
need to return to cath given no ECG changes and recommended 
starting isosorbide dinitrate and uptitrating this and patient 
was weaned off nitro drip. CEs were stable and MB was flat 
indicating that patient did not have a ___ MI. Given 
his chest pain renal deferred dialysis until ___. Had CP and 
hypotension following dialysis and none since this. patient then 
remained CP free. We continued aspirin, clopidogrel, carvedilol 
and statin and converted ISMN to ISDN. Patient passed ___ and was 
discharged home on ___. Patient has PCP ___ on 
___ and cardiology ___ on ___. 
.
# PUMP: Most recent echocardiogram from OSH showed 45% LVEF with 
focal inferior-posterior wall motion abnormalities. Previous 
mild to moderate MR on ___ echo. No SOB or stigmata of CHF. 
Repeat echo after cath showed worse mitral regurgitation 
(Moderate) and worse pulm HTN (Moderate). We continued 
carvedilol.
.
# ESRD on HD: Cr ___ at recent baseline. Recent admission with 
clotted L dialysis graft and discharged on ___. Patient 
was treated with HD via a temporary right femoral HD line during 
last admission and had ___ LUE AVF thrombectomy c/b Radial art 
occlusion s/p extraction of thrombus ___. ___ 
dialysis schedule. HD ___ via left graft. Electrolytes stable 
at OSH. Dialysis was deferred until ___ due to chest pain and 
treated hyperkalemia 5.7 with kayexalate. Had CP and hypotension 
following dialysis and none after this. Stitch was removed from 
graft site. Patient had further dialysis on regularly scheduled 
day and patent was discharged after dialysis on ___. We 
continued sevelamer, Ca carbonate, nephrocaps.
.
# RHYTHM: ECG in SR. Paroxysmal atrial fibrillation on 
amiodarone. Not on warfarin due to GI bleed. TSH was 1.8. We 
continued home amiodarone.
.
# History of ischemic colitis: s/p SMA thrombectomy, with 
___ pouch and end ileostomy. Patient received routine 
ileostomy care.
.
# PVD: s/p aorto-bifem bypass. No current signs. We continued 
aspirin and clopidogrel.
.
# HTN: Hypertensive on admission. We continued amlodipine, 
carvedilol.
.
# HLD: Lipids TGCs 108 Chol 89 LDL 32 HDL 35. We changed 
lovastatin to Atorvastatin 40mg.
 
Medications on Admission:
1. carvedilol 12.5 mg Tablet Sig: One (1) Tablet PO BID (2 times
a day).
2. loperamide 2 mg Capsule Sig: One (1) Capsule PO Q 12H (Every
12 Hours).
3. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
4. sevelamer HCl 400 mg Tablet Sig: Two (2) Tablet PO TID
W/MEALS (3 TIMES A DAY WITH MEALS).
5. calcium acetate 667 mg Capsule Sig: Two (2) Capsule PO TID
W/MEALS (3 TIMES A DAY WITH MEALS).
6. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap
PO DAILY (Daily).
7. isosorbide mononitrate 30 mg Tablet Extended Release 24 hr
Sig: One (1) Tablet Extended Release 24 hr PO BID (2 times a
day).
8. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every
6 hours) as needed for pain or fever: no more than 4000mg per
day.
9. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
10. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY
(Daily).
11. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
12. amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY
(Daily).
13. lovastatin 10 mg Tablet Sig: One (1) Tablet PO once a day.
 
Discharge Medications:
1. carvedilol 12.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
2. loperamide 2 mg Tablet Sig: One (1) Tablet PO every twelve 
(12) hours: as previously prescribed.  
3. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
4. sevelamer carbonate 800 mg Tablet Sig: One (1) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
5. calcium acetate 667 mg Capsule Sig: Two (2) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
6. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) 
Capsule PO once a day.  
7. isosorbide dinitrate 20 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).
Disp:*90 Tablet(s)* Refills:*2*
8. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
9. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
12. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Non-ST Elevation MI
Stenosis of left anterior descending coronary artery treated 
with placement of drug-eluting ___
ESRD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you during your stay at the 
___. You were admitted to the 
hospital for treatment of a heart attack after you had several 
episodes of chest pain. You underwent cardiac catheterization 
that showed you had a new blockage in one of your blood vessels. 
 You had a ___ placed to that vessel with return of flow.  
After the procedure, you had some chest pain which was treated 
with medication. We stopped your Imdur and changed you to a 
similar medication called isosorbide dinitrate which you take 
three times a day and changed your cholesterol medication to 
Atorvastatin. You DID NOT have a further heart attack by our 
blood tests. You did well overnight with no further symptoms. 
You had dialysis while you were in hospital and you should 
continue the same dialysis schedule. You are being discharged 
home to ___ with your cardiologist and outpatient 
providers. 

It is important that you take your clopidogrel and aspirin every 
day.  DO NOT miss ___ day.

CHANGES IN MEDICATION:
- STOP Imdur
- STOP Lovastatin
- START Isosorbide Dinitrate 20 mg three times a day
- START Atorvastatin 40 mg daily

Continue your other medications as prescribed.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___